US08445118B2
A solution of catechol (22.0 g, 0.20 mmol) and toluene (220 mL) was dehydrated by distilling 20 mL of the solution. Thereafter, 20.8 g (0.10 mmol) of tetraethoxysilane (TEOS) was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled at a liquid flow rate of 15 mL/h until the amount of the solution became 100 mL. As a result, catechol-silicon complex toluene was obtained. To 2 mL of catechol-silicon complex toluene, 2 mL of acetylacetone was added to produce a coating liquid.

reactant | catechol | 0.20 mmol, 22.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | tetraethoxysilane | 0.10 mmol, 20.8 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | toluene | 220 mL | C1(=CC=CC=C1)C | C7H8
product | catechol silicon | C=1(O)C(O)=CC=CC1.[Si] | InChI=1S/C6H6O2.Si/c7-5-3-1-2-4-6(5)8;/h1-4,7-8H;
